US04097491
Preparation of N-(2,2-Dipropoxyethyl)-N-(4-methyl-1,3-dioxan-2-ylmethyl)amine
2,2-Dipropoxyethylamine (0.11 mole), 2-bromomethyl-4-methyl-1,3-dioxane (0.1 mole), triethylamine (20 ml) and toluene (150 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction is heated at reflux for a period of about 12 hours. After this time the reaction mixture is allowed to cool to room temperature and is filtered. The reaction mixture is then stripped of solvent and unreacted starting materials under reduced pressure to yield the desired product N-(2,2-dipropoxyethyl)-N-(4-methyl-1,3-dioxan-2-ylmethyl)amine.

reactant | 2,2-Dipropoxyethylamine | 0.11 mole | C(CC)OC(CN)OCCC | C8H19NO2
reactant | 2-bromomethyl-4-methyl-1,3-dioxane | 0.1 mole | BrCC1OCCC(O1)C | C6H11BrO2
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,2-dipropoxyethyl)-N-(4-methyl-1,3-dioxan-2-ylmethyl)amine | C(CC)OC(CNCC1OCCC(O1)C)OCCC | C14H29NO4
